US04028344
Preparation of 4-[1-(t-Butylazo)cyclohexyl]-1-phenylsemicarbazide
To 6.6 grams (0.0315 moles) of 1-t-butylazo-1-isocyanatocyclohexane cooled to 5° C. and stirred with a magnetic stirrer in a 50 ml erlenmeyer flask was added dropwise 3.42 grams (0.0315 moles) of phenylhydrazine. The reaction was very exothermic and rapid. Pentane was added to slurry the solid product and the slurry was filtered. The white solid filter cake was air dried and weighed 10.0 grams (100% crude yield). The product melted at 140°-142° C. with decomposition. The infrared spectrum of the product contained a strong carbonyl band at 1670 cm-1 and NH bands at 3100, 3230 and 3320 cm-1. The isocyanate band at 2225 cm-1 was absent.

reactant | 1-t-butylazo-1-isocyanatocyclohexane | 0.0315 moles, 6.6 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=O | C11H19N3O
reactant | phenylhydrazine | 0.0315 moles, 3.42 grams | C1(=CC=CC=C1)NN | C6H8N2
solvent | Pentane | CCCCC | C5H12
product | 4-[1-(t-Butylazo)cyclohexyl]-1-phenylsemicarbazide | C(C)(C)(C)N=NC1(CCCCC1)NC(NNC1=CC=CC=C1)=O | C17H27N5O
